Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Aspirin / Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest Pain and shortness of breath
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Pt is an ___ yo M with PMHx sig. for DM2, CHF, CAD who p/w 
shortness of breath. Pt complains of increased burping, 
especially at night, for the past 2 days. Pt also notes 
worsening shortness of breath during this time. No orthopnea, 
pedal edema, or weight gain. Last night, pt developed a sharp 
pain in his right axilla associated with R arm weakness, which 
lasted until arriving here. No substernal pain or arm pain. 
+lightheadedness. No nausea, vomiting, diaphoresis, 
palpitations. No fevers, chills.  

In the ED, VS were: BP 138/60, HR 74, R20, adn 98% on 2L. On 
exam, pt was felt to be overloaded. EKG showed an old LBBB and 
no acute ischemic changes. CXR showed RLL density. Pt received 
Lasix 20 mg IV, Plavix 600 mg, levofloxacin, and duonebs. He has 
put out 600 cc with the Lasix.  

Currently, pt is chest pain-free. No SOB. Continues to burp.  

On review of systems, fever, chills, cough, abdominal pain, 
diarrhea, black stools or red stools. +chronic constipation. 
+abdominal distention  

 
Past Medical History:
DM2  
CHF, ?25%  
CAD, MI ___ years ago  
HTN  
HL  
COPD  
Depression/Anxiety  
Vascular Dementia  
GERD  
 
Social History:
___
Family History:
No family history of early MI, otherwise non-contributory.
 
Physical Exam:
VS: T97.3, 152/72, 86, 18, 99 on 3L  
GENERAL: Eldery male in NAD. Alert and oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. EOMI. MMM.  
NECK: Supple with JVP of 10 cm.  
CARDIAC: Distant heart sounds. RR, normal S1, S2. No m/r/g.  
LUNGS: CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: normoactive BS, soft, NT, mild abdominal distension  
EXTREMITIES: 1+ pedal edema bilaterally, 2+ DP pulses.  
SKIN: No stasis dermatitis, ulcers.  
 
Pertinent Results:
___ 05:30AM BLOOD WBC-10.7 RBC-3.58* Hgb-11.9* Hct-33.0* 
MCV-92 MCH-33.2* MCHC-36.0* RDW-12.8 Plt ___
___ 10:40PM BLOOD WBC-14.5* RBC-4.01* Hgb-13.5* Hct-36.8* 
MCV-92 MCH-33.7* MCHC-36.8* RDW-12.8 Plt ___
___ 10:40PM BLOOD Neuts-73.6* Lymphs-16.2* Monos-5.5 
Eos-3.6 Baso-1.1
___ 10:35AM BLOOD ___ PTT-97.5* ___
___ 05:30AM BLOOD Glucose-135* UreaN-20 Creat-1.2 Na-140 
K-4.3 Cl-102 HCO3-32 AnGap-10
___ 05:55AM BLOOD Glucose-164* UreaN-25* Creat-1.1 Na-137 
K-4.8 Cl-103 HCO3-29 AnGap-10
___ 10:40PM BLOOD Glucose-109* UreaN-26* Creat-1.0 Na-141 
K-4.5 Cl-105 HCO3-28 AnGap-13
___ 05:30AM BLOOD CK(CPK)-41
___ 10:40AM BLOOD CK(CPK)-73
___ 05:55AM BLOOD CK(CPK)-107
___ 10:40PM BLOOD CK(CPK)-68
___ 05:30AM BLOOD CK-MB-NotDone cTropnT-0.54*
___ 10:40AM BLOOD CK-MB-NotDone cTropnT-0.44*
___ 05:55AM BLOOD CK-MB-11* MB Indx-10.3* cTropnT-0.38*
___ 10:40PM BLOOD cTropnT-0.23*
___ 10:40PM BLOOD CK-MB-7 proBNP-1530*
___ 05:30AM BLOOD Mg-2.4
___ 05:55AM BLOOD Mg-2.5 Iron-56
___ 05:55AM BLOOD calTIBC-259* VitB12-580 Folate-10.6 
Ferritn-96 TRF-199*

CXR ___: Probable right lower lung pneumonia. Recommend PA 
and lateral radiographs of the chest for better evaluation. 

 
Brief Hospital Course:
CORONARIES: The patient recently had chest pain and was ruled 
out for an MI at the ___, he had undergone a persantine 
stress which revealed transient ischemic dilation which could be 
due to 3VD or could be due to ischemic cardiomyopathy with a low 
EF.  His EF is low at 25%.  On this admission he presented with 
shortness of breath, he was given lasix IV and diursed negative 
2.5 liters during his stay and his shortness of breath rapidly 
improved.  His chest symptoms were feeling that he needed to 
belch which were repeatedly relieved by belching.  His symptoms 
were ongoing for days and his troponins were elevated.  His CK 
and CKMB peaked at a CK of 107 and MB of 11.  He was on heparin 
until his CKs peaked at 107 then was stopped as his CKs trended 
downward.  Given that his CK elevation was minimal and his 
troponins were elevated in the setting of a CHF exacerbation it 
is possible that he has coronary disease and the stress caused 
by CHF exacerbation caused demand ischemia and troponin 
elevation.  He was not optimally medically managed so his coreg 
was increased from 3.125 to 12.5mg po bid.  This should be 
increased as HR and BP allow as an outpatient.  In addition his 
other antihypertensives including ACEi / imdur should also be 
titrated to a goal BP of < 130/80.  His simvastatin was 
continued at 80mg daily and he was continued on an aspirin.  If 
symptoms of shortness of breath, DOE, or chest pain / tightness 
return despite optimal medical management he would be a 
candidate for a cardiac cathterization.  

CHF: as above, acute on chronic systolic CHF, EF 25%.  Diuresed 
with IV lasix, on lasix 30mg daily at home, this was increased 
to 40mg daily.  Coreg, ACEi and imdur continued.

PNEUMONIA: Probable RLL pneumonia on CXR, in the setting of some 
shortness of breath he was started on levofloxacin 750mg po 
daily, he has 3 days left on this regimen (___)
 
Medications on Admission:
Imdur 30 mg daily  
Namenda 5 mg bid  
Lasix 30 mg daily  
neurotin 300 mg bid  
coreg 3.125 mg bid  
plavix 75 mg daily  
tylenol ___ mg bid  
glyburide 1.25 mg daily  
priolsec 20 mg daily  
simvastatin 20 mg daily  
lisinopril 2.5 mg daily  
effexor XR 150 mg daily  
Novolog insulin sliding scale  
senna 8.5 mg daily  
colace 100 mg bid  
lidoderm patch, 2 patches to R buttock and 1 patch to lower back 
 
TUMS prn  
tylenol prn  
Lactulose, MOM, fleets enema, ___ prn  
trazodone 50 mg prn  
Ativan 0.5 mg prn  
 
Discharge Medications:
1. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
2. Memantine 5 mg Tablet Sig: One (1) Tablet PO bid ().  
3. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
4. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Glyburide 1.25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Tylenol  Oral
7. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
8. Lisinopril 5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
9. Venlafaxine 75 mg Capsule, Sust. Release 24 hr Sig: Two (2) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
10. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Carvedilol 12.5 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
12. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
13. Insulin Lispro 100 unit/mL Solution Sig: sliding scale units 
Subcutaneous ASDIR (AS DIRECTED): insulin per sliding scale.  
14. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
15. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
16. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
Two (2) Adhesive Patch, Medicated Topical QD ().  
17. Simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO QID (4 times a day) as needed.  
18. Levofloxacin 750 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 3 days.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: 
acute systolic CHF

 
Discharge Condition:
stable, sating well on room air

 
Discharge Instructions:
You were admitted to the hospital with shortness of breath.  
This was due to a heart failure exacerbation (fluid buildup in 
your lungs).  You received medications to remove this fluid.  
Your lasix was increased from 30mg daily to 40mg daily.  Your 
coreg was increased from 3.125mg twice daily to 12.5mg twice 
daily.

Please return to the hospital if you have any chest pain, 
shortness of breath or any other symptoms that concern you.
 
Followup Instructions:
___